US05886014
Methyl 4-aminophenoxyacetate
A solution of 30.8 g of methyl 4-nitrophenoxyacetate (prepared as described in Preparation 1) in 500 ml of methanol was shaken in an atmosphere of hydrogen and in the presence of 5.0 g of 10% w/w palladium-on-charcoal for 6 hours. At the end of this time, the reaction mixture was filtered and the filtrate was concentrated by evaporation under reduced pressure, to give 25.8 g of the title compound having an Rf value=0.79 (on thin layer chromatography on silica gel; developing solvent: ethyl acetate).

reactant | methyl 4-nitrophenoxyacetate | 30.8 g | [N+](=O)([O-])C1=CC=C(OCC(=O)OC)C=C1 | C9H9NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | Methyl 4-aminophenoxyacetate | 25.8 g | NC1=CC=C(OCC(=O)OC)C=C1 | C9H11NO3
